US07884207B2
Potassium acetate (0.28 g, 2.89 mmol) was added to a solution of 1-{[4-amino-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanol (0.83 g, 2.41 mmol) in DMF (10 mL). The reaction mixture was stirred at ambient temperature overnight and then concentrated under reduced pressure to provide crude [4-amino-1-(1-hydroxycyclohexylmethyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate.

reactant | Potassium acetate | 2.89 mmol, 0.28 g | C(C)(=O)[O-].[K+]
reactant | 1-{[4-amino-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanol | 2.41 mmol, 0.83 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCCCC2)O)CCl | C18H21ClN4O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [4-amino-1-(1-hydroxycyclohexylmethyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate | C(C)(=O)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1(CCCCC1)O | C20H24N4O3
